US09029359B2
To a solution of tert-butyl piperidin-3-ylcarbamate compound (5.0 g, 25 mmol) and 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (3.75 g, 25 mmol) in DMF (50 mL) was added DIEA (4.2 mL, 3.1 g, 25 mmol) and the solution was stirred at 100° C. for 4 h. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography to give tert-butyl 1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-ylcarbamate. To a solution of tert-butyl 1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-ylcarbamate (6.3 g, 20 mmol) in dioxane (50 ml) was added 4.0 N HCl (50 mL, 200 mmol) and stirred at rt. After several hours, the reaction mixture was concentrated in vacuo to give compound 33.

reactant | tert-butyl piperidin-3-ylcarbamate | 25 mmol, 5.0 g | N1CC(CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 25 mmol, 3.75 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | DIEA | 25 mmol, 4.2 mL, 3.1 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl 1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-ylcarbamate | N1=CN=C(C2=C1NC=C2)N2CC(CCC2)NC(OC(C)(C)C)=O | C16H23N5O2
